US07557114B2
(c) 6-Trifluoromethyl-2,3-dihydro-1H-pyrrolo[3,4-c]pyridine
Prepared in analogy to Example A2(c) from 6-Trifluoromethyl-2-trityl-2,3-dihydro-1H-pyrrolo[3,4-c]pyridine and trifluoroacetic acid. Off white solid.

reactant | 6-Trifluoromethyl-2-trityl-2,3-dihydro-1H-pyrrolo[3,4-c]pyridine | FC(C1=CC2=C(C=N1)CN(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)(F)F | C27H21F3N2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 6-Trifluoromethyl-2,3-dihydro-1H-pyrrolo[3,4-c]pyridine | FC(C1=CC2=C(C=N1)CNC2)(F)F | C8H7F3N2
